US06455528B1
(1) Synthesis of 2-Ethoxy-4-fluoronitrobenzene
To a solution of ethanol (4.2 ml) in tetrahydrofuran (65 ml) was added a solution of triphenylphosphine (13 g) and 5-fluoro-2-nitrophenol (10 g) in tetrahydrofuran (65 ml). To this solution was added diethyl azodicarboxylate (10 ml) under ice-cooling and the mixture was stirred at room temperature for 4 hr. The reaction mixture was concentrated under reduced pressure and diisopropyl ether was added. The precipitated crystals were collected by filtration and concentrated under reduced pressure. The concentrate was subjected to silica gel column chromatography (developing solvent; hexane:ethyl acetate=4:1) to give a yellow oil. To this oil was added ethyl acetate, washed with an aqueous sodium hydroxide solution, dried over magnesium sulfate and concentrated under reduced pressure to give the title compound (9.6 g) as a yellow oil.

reactant | ethanol | 4.2 ml | C(C)O | C2H6O
reactant | triphenylphosphine | 13 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-fluoro-2-nitrophenol | 10 g | FC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | diethyl azodicarboxylate | 10 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Ethoxy-4-fluoronitrobenzene | 9.6 g | C(C)OC1=C(C=CC(=C1)F)[N+](=O)[O-] | C8H8FNO3
